US05939451
0.10 g (0.00030 mol) of 3-chloro-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide was dissolved in 5 ml of EtOH, treated with 0.27 g (0.004 mol) of methylamine hydrochloride and 1 ml (0.007 mol) of triethylamine and stirred in an autoclave at 145° C. for 17 hours. The entire reaction mixture was partitioned in ethyl acetate/water and extracted. The residue was recrystallized from MeOH. There was obtained 0.04 g (41%) of N-(2,6-bis-methylamino-pyrimidin-4-yl)-3-chloro-benzenesulfonamide as white crystals; m.p. 167-168° C.

reactant | 3-chloro-N-(6-chloro-2-methylamino-pyrimidin-4-yl)-benzenesulfonamide | 0.00030 mol, 0.10 g | ClC=1C=C(C=CC1)S(=O)(=O)NC1=NC(=NC(=C1)Cl)NC | C11H10Cl2N4O2S
reactant | methylamine hydrochloride | 0.004 mol, 0.27 g | Cl.CN
reactant | triethylamine | 0.007 mol, 1 ml | C(C)N(CC)CC | C6H15N
solvent | EtOH | 5 ml | CCO | C2H6O
product | N-(2,6-bis-methylamino-pyrimidin-4-yl)-3-chloro-benzenesulfonamide | 0.04 g, 41% | CNC1=NC(=CC(=N1)NS(=O)(=O)C1=CC(=CC=C1)Cl)NC | C12H14ClN5O2S
